US06051712
To 1.46 g of magnesium shavings, which had previously been covered with tetrahydrofuran, was added dropwise a solution of 12.06 g (60 mmol) of 5-bromo-benzo[1,3]dioxol in 30 ml of absolute tetrahydrofuran, followed by 11.35 g (60 mmol) of 1-benzyl-4-piperidone. The reaction mixture was stirred at 50° C. for 1 hour, then poured on to ice and ammonium chloride solution. The 4-benzo[1,3]dioxol-5-yl-1-benzyl-piperidin-4-ol formed was extracted with ethyl acetate and crystallized upon concentration of the solution. There were obtained 10.85 g (58% of theory) of white crystals; m.p.: 144° C.

reactant | magnesium | 1.46 g | [Mg] | Mg
reactant | 5-bromo-benzo[1,3]dioxol | 60 mmol, 12.06 g | BrC1=CC2=C(OCO2)C=C1 | C7H5BrO2
reactant | 1-benzyl-4-piperidone | 60 mmol, 11.35 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-benzo[1,3]dioxol-5-yl-1-benzyl-piperidin-4-ol | O1COC2=C1C=CC(=C2)C2(CCN(CC2)CC2=CC=CC=C2)O | C19H21NO3
